US09169254B2
8-[2-(4-tert-Butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-but-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester (37.9 mg, 71%) was obtained by the same method as in Reaction 366-9 using 8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester and 3-butyn-1-ol as starting materials.

reactant | 8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)O | C33H40F3N3O8S
reactant | 3-butyn-1-ol | C(CC#C)O | C4H6O
product | 8-[2-(4-tert-Butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-but-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | 37.9 mg, 71% | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)OCCC#C | C37H44F3N3O8S
